US08859591B2
Step E: (+) & (−)-N-{4-[{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}(3,3-dimethylcyclobutyl)methyl]benzoyl}-beta-alanine
A mixture of crude (+/−)-ethyl N-{4-[{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}(3,3-dimethylcyclobutyl)methyl]benzoyl}-beta-alaninate (2.48 g, 4.91 mmol) was dissolved in methanol (4.8 ml) and tetrahydrofuran (2.4 ml) and treated with aqueous 2.0M lithium hydroxide (4.8 ml, 9.6 mmol). The mixture was stirred at ambient temperature for 12 hours. The reaction was concentrated in vacuo, then diluted with water and acidified with aqueous 1.0M hydrochloric acid. A yellow precipitate formed and was collected by filtration. The two enantiomeric products were separated by chiral SFC Column: Chiralpak AD-H. Dimensions: 21×250 mm. Mobile Phase: 50/50 CO2/methanol, (peak 1, 638 mg, 27% and peak 2, 682 g, 29%). Flow Rate: 65 mL/min. Modifier: none. Analytical SFC: Chiralpak AD-H, 4.6 mm×25 cm; SFC Mobile Phase 50:50 CO2/Methanol, 2.5 mL/min, analytical retention time: 3.90 min (Isomer 2) and 9.30 (Isomer 1). 1H NMR (400 MHz, CDCl3): δ 8.01 (s, 1H), 7.70 (d, J=8.0 Hz, 2H), 7.60 (d, J=2.5 Hz, 1H), 7.55 (d, J=8.8 Hz, 1H), 7.42 (s, 1H), 7.32 (d, J=8.0 Hz, 2H), 6.84 (dd, J=8.8, 2.7 Hz, 1H), 4.14 (d, J=9.4 Hz, 1H), 3.56-3.67 (m, 2H), 2.40-2.47 (m, 2H), 1.96 (ddd, J=11.2, 8.0, 3.9 Hz, 1H), 1.60-1.74 (m, 3H), 1.54 (ddd, J=11.9, 8.4, 3.7 Hz, 1H), 1.28-1.34 (m, 1H), 1.09 (s, 3H), 1.07 (s, 3H), 0.81-0.86 (m, 2H), 0.50-0.56 (m, 2H) MS (M+1): 488.4.

reactant | (+/−)-ethyl N-{4-[{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}(3,3-dimethylcyclobutyl)methyl]benzoyl}-beta-alaninate | 4.91 mmol, 2.48 g | C1(CC1)C=1C=NN(C1)C1=CC=C(C=N1)NC(C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1CC(C1)(C)C | C30H37N5O3
reactant | tetrahydrofuran | 2.4 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 9.6 mmol, 2.0M, 4.8 ml | [OH-].[Li+]
solvent | methanol | 4.8 ml | CO | CH4O
product | (−)-N-{4-[{[6-(4-cyclopropyl-1H-pyrazol-1-yl)pyridin-3-yl]amino}(3,3-dimethylcyclobutyl)methyl]benzoyl}-beta-alanine | C1(CC1)C=1C=NN(C1)C1=CC=C(C=N1)NC(C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1CC(C1)(C)C | C28H33N5O3
